US04797419
Preparation of N,N-diphenyl-N'-(4-pyridinyl)urea
Employing the general method of Example 1, 27.5 g (0.12 mol) of diphenylcarbamic chloride and 20 g (0.12 mol) of 4-aminopyridine were heated under reflux for two hours in 150 ml of chloroform containing 12.0 g (0.12 mol) of triethylamine to produce the title compound as a pale yellow solid.

reactant | diphenylcarbamic chloride | 0.12 mol, 27.5 g | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-aminopyridine | 0.12 mol, 20 g | NC1=CC=NC=C1 | C5H6N2
reactant | chloroform | 0.12 mol, 150 ml, 12.0 g | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N,N-diphenyl-N'-(4-pyridinyl)urea | C1(=CC=CC=C1)N(C(=O)NC1=CC=NC=C1)C1=CC=CC=C1 | C18H15N3O
